US04472425
EXAMPLE 8: N-(hydroxyacetyl)-N-(2,4-dimethylthien-3-yl)-alanine-methylester (process f)
A solution of 5.4 g (0.1 mol) sodium methanolate in 50 ml dry methanol is slowly added to a mixture of 62.6 g (0.2 mol) N-(acetoxyacetyl)-N-(2,4-dimethylthien-3-yl)-alanine methylester (=Ex. 3.5) in 750 ml dry methanol with stirring. The mixture is stirred for two hours at room temperature, then freed of solvent in vacuo. The residue is poured into water and the pH adjusted to pH 2 with 2 N aqueous HCl. The product is extracted with CHCl3, the organic phase washed with water, dried over Na2SO4, and evaporated in vacuo to yield the title compound, m.p. 69°-70°.

reactant | sodium methanolate | 0.1 mol, 5.4 g | C[O-].[Na+]
reactant | N-(acetoxyacetyl)-N-(2,4-dimethylthien-3-yl)-alanine methylester | 0.2 mol, 62.6 g | COC([C@@H](N(C1=C(SC=C1C)C)C(COC(C)=O)=O)C)=O | C14H19NO5S
reactant | water | O | H2O
reactant | HCl | 2 N | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 750 ml | CO | CH4O
product | N-(hydroxyacetyl)-N-(2,4-dimethylthien-3-yl)-alanine-methylester | COC([C@@H](N(C1=C(SC=C1C)C)C(CO)=O)C)=O | C12H17NO4S
